US06833378B2
4-(1-Ethyl-propoxy)-6-methyl-3-nitro-2-(2,4,6-trimethyl-phenoxy)-pyridine
To a mixture of 2-chloro-4-(1-ethyl-propoxy)-6-methyl-3-nitro-pyridine (500 mg, 1.93 mmol) and 2,4,6-trimethylphenol (289 mg, 2.13 mmol) in dry THF was added potassium t-butoxide. The resulting mixture was stirred at rt. overnight. The mixture was quenched with water, brine and extracted 3 times with ethyl acetate. The organic layer was separated, dried (MgSO4) and concentrated to dryness. After silica gel column chromatography purification, the title compound was obtained as a light yellow crystal, mp 106-109° C. Anal. For C20H26N2O4 calc. C, 67.02; H, 7.31; N, 7.82; found, C, 67.34; H, 7.40; N, 7.42.

reactant | 2-chloro-4-(1-ethyl-propoxy)-6-methyl-3-nitro-pyridine | 1.93 mmol, 500 mg | ClC1=NC(=CC(=C1[N+](=O)[O-])OC(CC)CC)C | C11H15ClN2O3
reactant | 2,4,6-trimethylphenol | 2.13 mmol, 289 mg | CC1=C(C(=CC(=C1)C)C)O | C9H12O
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-(1-Ethyl-propoxy)-6-methyl-3-nitro-2-(2,4,6-trimethyl-phenoxy)-pyridine | C(C)C(CC)OC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)[N+](=O)[O-] | C20H26N2O4
